
* ============================================
* Test: read_run.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/designs/pvt.spice
.include /workspace/analog/designs/params_6T.spice
.include /workspace/analog/designs/params_8T.spice
.include /workspace/analog/tests/8T_tb.spice

* -- stimulus --
VVDD vdd 0 {VDD_CORNER}                       ; supply
VVSS vss 0 0                                  ; source
VWL  wl  0 PULSE(0 {VDD_CORNER} 5n 0.1n 0.1n 20n 50n)  ; read: ON - Pulsed
VA   a   0 {VDD_CORNER}                                ; set Activation = HI
CWBL  wbl  0 20f                              ; BL load capacitance
CWBLB wblb 0 20f                              ; BLB load capacitance

* -- initial conditions --
.ic v(q)=0.0 v(qb)={VDD_CORNER}        ; initial state: Q=0, QB=1
.ic v(wbl)={VDD_CORNER} v(wblb)={VDD_CORNER}    ; precharged lines: BL=HI, BLB=HI

* -- sim --
.control
  save all
  
  tran 0.1n 50n uic

  * plot v(q) v(qb)

  * --- validate data ---
  echo
  meas tran q_init  FIND v(q)  AT=5n
  meas tran qb_init FIND v(qb) AT=5n
  echo
  meas tran q_final  FIND v(q)  AT=50n
  meas tran qb_final FIND v(qb) AT=50n
  echo
  meas tran wbl_init  FIND v(wbl)  AT=5n
  meas tran wblb_init FIND v(wblb) AT=5n
  echo
  meas tran wbl_final  FIND v(wbl)  AT=50n
  meas tran wblb_final FIND v(wblb) AT=50n
  echo
  * --- save .raw for python parsing ---
  write /workspace/analog/sim/8t/results/read_run.raw all

.endc

.end
